US07211573B2
b) Carbonic acid (S)-1-((6R,7S)-6-methyl-8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-ylcarbamoyl)-ethyl ester 4-nitro-phenyl ester
A mixture of 290 mg (1.1 mmol) of (S)-2-hydroxy-N-((6R,7S)-6-methyl-8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl)-propionamide and 0.177 ml (2.19 mmol) of pyridine in 10 ml of dichloromethane was treated with 274 mg (1.32 mmol) of 4-nitrophenyl chloroformate and stirred overnight at room temperature. The solvent was removed by distillation and the crude product was purified by flash-chromatography on silica gel using an ascending gradient of ethyl acetate in heptane as the eluent to yield 220 mg (47% of theory) of the title compound as a white solid, MS m/e (%): 430.3 (M+H+, 100).

reactant | (S)-2-hydroxy-N-((6R,7S)-6-methyl-8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-yl)-propionamide | 1.1 mmol, 290 mg | O[C@H](C(=O)N[C@H]1[C@H](OC2=C(NC1=O)C=CC=C2)C)C | C13H16N2O4
reactant | pyridine | 2.19 mmol, 0.177 ml | N1=CC=CC=C1 | C5H5N
reactant | 4-nitrophenyl chloroformate | 1.32 mmol, 274 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | Carbonic acid (S)-1-((6R,7S)-6-methyl-8-oxo-6,7,8,9-tetrahydro-5-oxa-9-aza-benzocyclohepten-7-ylcarbamoyl)-ethyl ester 4-nitro-phenyl ester | [N+](=O)([O-])C1=CC=C(C=C1)OC(O[C@@H](C)C(N[C@H]1[C@H](OC2=C(NC1=O)C=CC=C2)C)=O)=O | C20H19N3O8
